* C:\Users\ammit\Desktop\Pen\ISEL\ISEL\2223\LEIC\s1\E\Trab2\T2_Eletronica\VGS_VDS.asc
XMP1 F1_Res A VDD pmosx
XMP2 n1 _B VDD pmosx
XMP3 n6 C n1 pmosx
XMP4 n6 D VDD pmosx
XMP5 F1_Res E n6 pmosx
XMN1 F1_Res A n7 nmosx
XMN2 n7 _B n8 nmosx
XMN3 n7 C n8 nmosx
XMN4 n8 D 0 nmosx
XMN5 n7 E 0 nmosx
XMP6 n2 A VDD pmosx
XMP7 VDD _A n3 pmosx
XMP8 n3 B F2_Res pmosx
XMP9 F2_Res _B n2 pmosx
XMN6 F2_Res A n4 nmosx
XMN7 n4 B 0 nmosx
XMN8 n5 _A F2_Res nmosx
XMN9 0 _B n5 nmosx
XMNB _B B 0 nmosx
XMPB _B B VDD pmosx
XMNA _A A 0 nmosx
XMPA _A A VDD pmosx
VDD VDD 0 5V
XMP10 F1_Res Enable1 F1 nmosx
XMN10 F1_Res _Enable1 F1 pmosx
XMP11 F2_Res Enable2 F2 nmosx
XMN11 F2_Res _Enable2 F2 pmosx
XMNEn1 _Enable1 Enable1 0 nmosx
XMPEn1 _Enable1 Enable1 VDD pmosx
XMNEn2 _Enable2 Enable2 0 nmosx
XMPEn2 _Enable2 Enable2 VDD pmosx
VinA A 0 0V
VinB B 0 5V
VinC C 0 0V
VinD D 0 0V
VinE E 0 5V
VEn1 Enable1 0 5V
VEn2 Enable2 0 5V

* block symbol definitions
.subckt pmosx D G S
MP D G S VDD P_1u l=1u w=30u
.inc cmos_modelos.txt
.global VDD
.ends pmosx

.subckt nmosx D G S
MN D G S 0 N_1u l=1u w=10u
.inc cmos_modelos.txt
.global VDD
.ends nmosx

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ammit\Documents\LTspiceXVII\lib\cmp\standard.mos
* F1
* F2
* NOT
* Inputs
* Exemplo \nABCDE=01001\nEnable1/Enable2 = 1
.op
* VGS-MPA=
* VGS-MNA=
* VGS-MPB=
* VGS-MNB=
* VGS-MPEn1=
* VGS-MPEn1=
* VGS-MPEn2=
* VGS-MPEn2=
* VGS-MP1=
* VGS-MN1=
* VGS-MP2=
* VGS-MN2=
* VGS-MP3=
* VGS-MN3=
* VGS-MP4=
* VGS-MN4=
* VGS-MP5=
* VGS-MN5=
* VGS-MP6=
* VGS-MN6=
* VGS-MP7=
* VGS-MN7=
* VGS-MP8=
* VGS-MN8=
* VGS-MP9=
* VGS-MN9=
* VGS-MP10=
* VGS-MN10=
* VGS-MP11=
* VGS-MN11=
* VDS-MPA=
* VDS-MNA=
* VDS-MPB=
* VDS-MNB=
* VDS-MPEn1=
* VDS-MPEn1=
* VDS-MPEn2=
* VDS-MPEn2=
* VDS-MP1=
* VDS-MN1=
* VDS-MP2=
* VDS-MN2=
* VDS-MP3=
* VDS-MN3=
* VDS-MP4=
* VDS-MN4=
* VDS-MP5=
* VDS-MN5=
* VDS-MP6=
* VDS-MN6=
* VDS-MP7=
* VDS-MN7=
* VDS-MP8=
* VDS-MN8=
* VDS-MP9=
* VDS-MN9=
* VDS-MP10=
* VDS-MN10=
* VDS-MP11=
* VDS-MN11=
* VF1=
* VF2=
* Tri-state
* Considere aproximação de ~mV a 0V.
* Considere aproximação de ~nV a 0V.
* Considere aproximação de ~uV a 0V.
* Considere aproximação de ~pV a 0V.
.backanno
.end
